US05346906
Thionyl chloride (0.74 ml, 10.2 mmol) was added dropwise to a solution of 3-hydroxy-3-(2-pyridinyl)-1-azabicyclo[2.2.2]octane (1.04 g, 5.09 mmol, prepared as in Description 1) in dichloromethane (10 ml). The reaction mixture was stirred at room temperature for 1 h, poured into saturated aqueous potassium carbonate (30 ml) and extracted with dichloromethane. The organic extract was dried over magnesium sulphate and then concentrated to a brown oil. The crude product was chromatographed through silica-gel using dichloromethane/methanol/ammonia (94.5:5:0.5) as eluent to give first 0.28 g of 3-chloro-3-(2-pyridinyl)-1-azabicyclo[2.2.2]octane followed by 0.39 g of 3-(2-pyridinyl)-1-azabicyclo[2.2.2]oct-2-ene.

reactant | Thionyl chloride | 10.2 mmol, 0.74 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxy-3-(2-pyridinyl)-1-azabicyclo[2.2.2]octane | 5.09 mmol, 1.04 g | OC1(CN2CCC1CC2)C2=NC=CC=C2 | C12H16N2O
reactant | potassium carbonate | 30 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-chloro-3-(2-pyridinyl)-1-azabicyclo[2.2.2]octane | 0.28 g | ClC1(CN2CCC1CC2)C2=NC=CC=C2 | C12H15ClN2
